* source P100_DATA_AQUISITON
.EXTERNAL OUTPUT Vtemp
V_V2         0 -VCC 12Vdc
V_V3         VCC 0 12Vdc
V_V4         3.3V 0 3.3VDC
X_U3         N04750 N04740 VCC -VCC N04823 TL084
R_R9         3.3V N04740  1000 TC=0,0 
R_R10         N04740 N04823  { (1 + 0.003908 * T - 0.0000005775 * T*T) * 1000 }
+  TC=0,0 
R_R11         3.3V N04750  1000 TC=0,0 
R_R12         0 N04750  1000 TC=0,0 
X_U4         N05628 N23832 VCC -VCC VTEMP TL084
R_R13         0 N05628  10k TC=0,0 
R_R14         N23865 N05628  2.4k TC=0,0 
R_R19         N23832 VTEMP  10k TC=0,0 
R_R20         N04823 N23832  2.4k TC=0,0 
X_U5         N24017 N23865 VCC -VCC N23865 TL084
R_R21         3.3V N24017  2.4k TC=0,0 
R_R22         0 N24017  100 TC=0,0 
X_U8         0 N29136 VCC -VCC N29557 TL084
X_U9         0 N29292 VCC -VCC N29487 TL084
X_U10         N29705 N29743 VCC -VCC N29784 TL084
R_R27         VTEMP N29136  10k TC=0,0 
R_R28         N32640 N29136  10k TC=0,0 
R_R29         VTEMP N29292  10k TC=0,0 
R_R30         N29136 N29589  10k TC=0,0 
R_R31         N29292 N29522  10k TC=0,0 
R_R32         N29589 N29705  100k TC=0,0 
R_R33         0 N29705  100k TC=0,0 
R_R34         N29743 N29522  200k TC=0,0 
R_R35         N29784 N29743  200k TC=0,0 
D_D7         N29589 N29557 BA220 
D_D8         N29557 N29136 BA220 
D_D9         N29487 N29292 BA220 
D_D10         N29522 N29487 BA220 
V_V5         0 N32640 3.3Vdc
.PARAM  t=85
